US05585279
Step (a) Synthesis of 4,4' dimethyl 2,2' bipyridine.
Freshly distilled 4-picoline (600 ml) was refluxed with palladium on carbon 10% (w/w) for five days. The mixture was then refluxed for a further hour after addition of 100 ml of hot benzene. The palladium on carbon was then removed by filtration (glass-fibre paper). The filtration was repeated until a clear yellow solution was obtained. The volume of the solution was reduced by rotary evaporation to about 200 ml. and was left to stand for 24 hours. White crystals appeared which, after collection, were recrystalised from ethyl acetate. A colourless solid was recovered.

reactant | 4-picoline | 600 ml | N1=CC=C(C=C1)C | C6H7N
catalyst | palladium on carbon | [Pd] | Pd
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 4,4' dimethyl 2,2' bipyridine | CC1=CC(=NC=C1)C1=NC=CC(=C1)C | C12H12N2
